US07834030B2
To a solution of 1.7 g of 1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propan-1-ol in 4.7 mL of dimethylformamide at 5° C. was added 250 mg of a 55% suspension of sodium hydride in mineral oil. The reaction volume was completed with dimethylformamide to about 8.5 mL. The reaction mixture was stirred for 30 minutes at 5° C. 4.3 mL of the resulting mixture was slowly added to a solution of 450 mg of 2-difluoromethoxy-4-fluoro-benzonitrile in 2 mL of dimethylformamide at 5° C. The resulting mixture was stirred at 5° C. allowing the temperature to warm up to room temperature. It was then heated in a sealed tube to 60° C. under microwave irradiation for 15 minutes. After allowing it to cool down to room temperature, the mixture was poured into water and extracted with dichloromethane. The organic extracts were dried over magnesium sulfate, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (gradient from heptane 100 to heptane 50/ethyl acetate 50) to give 490 mg of 2-difluoromethoxy-4-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-benzonitrile.

reactant | 1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propan-1-ol | 1.7 g | CC=1N=C(SC1C(CC)O)C1=CC=C(C=C1)C(F)(F)F | C14H14F3NOS
reactant | sodium hydride | [H-].[Na+]
reactant | 2-difluoromethoxy-4-fluoro-benzonitrile | 450 mg | FC(OC1=C(C#N)C=CC(=C1)F)F | C8H4F3NO
reactant | water | O | H2O
solvent | dimethylformamide | 4.7 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 2-difluoromethoxy-4-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-benzonitrile | 490 mg | FC(OC1=C(C#N)C=CC(=C1)OC(CC)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)F | C22H17F5N2O2S
